US07820704B2
3-(1-Thiophen-2-ylmethyl-thioureido)-propionic acid tert-butyl ester was prepared (750 mg) following general procedure D using thiophene-2-carbaldehyde (0.466 mL, 5 mmol), beta-alanine tert-butyl ester hydrochloride (905 mg, 5 mmol), sodium triacetoxyborohydride (1.27 g, 6 mmol), Fmoc isothiocyanate (1.4 g, 95.3%, 5 mmol), and diethyl amine (2 mL). LCMS m/z: 301 (M+1)+.

reactant | thiophene-2-carbaldehyde | 5 mmol, 0.466 mL | S1C(=CC=C1)C=O | C5H4OS
reactant | beta-alanine tert-butyl ester hydrochloride | 5 mmol, 905 mg | Cl.C(C)(C)(C)OC(CCN)=O
reactant | sodium triacetoxyborohydride | 6 mmol, 1.27 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Fmoc isothiocyanate | 5 mmol, 1.4 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N=C=S | C16H11NO2S
reactant | diethyl amine | 2 mL | C(C)NCC | C4H11N
product | 3-(1-Thiophen-2-ylmethyl-thioureido)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCN(C(=S)N)CC=1SC=CC1)=O | C13H20N2O2S2
